US05145868
f) (4RS,5SR)-4,5-Epoxy-5-(5-chlorothiophen-2-yl)-pent-2-enal
A mixture of 0.4 g of crude (2RS,3SR)-2,3-epoxy-3-(5-chlorothiophen-2-yl)-propanal according to e) and 0.5 g of formyltriphenylphosphorane in 15 ml of benzene is stirred at room temperature for 4 hours. The clear solution is decanted off from the undissolved material and concentrated by evaporation. The residue is taken up in ether, decanted off from the undissolved material and again concentrated by evaporation. Chromatography with ether/hexane (2:1) on silica gel yields the title compound in the form of a pale-yellow solid.

reactant | (2RS,3SR)-2,3-epoxy-3-(5-chlorothiophen-2-yl)-propanal | 0.4 g | O1C(C=O)C1C=1SC(=CC1)Cl | C7H5ClO2S
reactant | formyltriphenylphosphorane | 0.5 g | C(=O)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H17OP
reactant | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | (4RS,5SR)-4,5-Epoxy-5-(5-chlorothiophen-2-yl)-pent-2-enal | O1C(C=CC=O)C1C=1SC(=CC1)Cl | C9H7ClO2S
